US07361763B2
Into a 20 mL Personal Chemistry microwave reaction vial were added 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.995 g, 2.18 mmol), 5-Bromo-nicotinic acid ethyl ester (0.645 g, 2.33 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (95.5 mg, 0.117 mmol), acetonitrile (10 mL) and saturated aqueous NaHCO3 (10 mL). The vial was sealed, purged with N2, and irradiated in a Personal Chemistry Optimizer at 90° C. for 15 min. The layers were separated, and the aqueous phase was extracted 3× with EtOAc. The combined organic phase was treated with brine, dried (Na2SO4), filtered and concentrated. Purification by flash silica gel chromatography using a gradient of ethyl acetate and hexanes afforded 5-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinic acid ethyl ester as a white powder (0.794 g, 69%). MS: m/z 528.1 [MH+].

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.18 mmol, 0.995 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 5-Bromo-nicotinic acid ethyl ester | 2.33 mmol, 0.645 g | C(C)OC(C1=CN=CC(=C1)Br)=O | C8H8BrNO2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-nicotinic acid ethyl ester | 0.794 g, 69% | C(C)OC(C1=CN=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)=O | C29H25N3O5S
